US06809108B1
Synthesis of 3-(benzyloxycarbonyl)amino-N-({(3S)-3-piperidyl)methyl}propanamide
To a solution of 1.84 g of 3-(benzyloxycarbonyl)amino-N-({(3R)-1-(tert-butoxycarbonyl)-3-piperidyl}methyl)propanamide in 2 ml of chloroform, 2 ml of trifluoroacetic acid was added at room temperature, followed by an hour's stirring at the same temperature. The reaction liquid was distilled off under reduced pressure, and the residue was rendered basic with, 4N aqueous sodium hydroxide solution. Extracting the product with chloroform, the product was dried over anhydrous sodium sulfate. Upon distilling the solvent off under reduced pressure, 1.26 g of the title compound was obtained.

reactant | 3-(benzyloxycarbonyl)amino-N-({(3R)-1-(tert-butoxycarbonyl)-3-piperidyl}methyl)propanamide | 1.84 g | C(C1=CC=CC=C1)OC(=O)NCCC(=O)NC[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C22H33N3O5
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(benzyloxycarbonyl)amino-N-({(3S)-3-piperidyl)methyl}propanamide | 1.26 g | C(C1=CC=CC=C1)OC(=O)NCCC(=O)NC[C@@H]1CNCCC1 | C17H25N3O3
